US04284562
A 50 ml round-bottomed flask, fitted with magnetic stirrer, oil bath preheated to 56° C. and addition funnel, is charged with a solution of 2.28 g (13.1 mmol, 3.47 eq) sodium hydroxulfite in 6 ml H2O+2 ml of the above KOH solution. To this reaction mixture is added a solution of 0.86 g (3.77 mmol) 1-methyl-α-trichloromethylpyrrole-2-methanol in 3 ml methanol, and then the remaining KOH solution is added dropwise over 5 min. After 1.5 hours, the flask is cooled and the reaction is washed with 15 ml Et2O. The aqueous phase is acidified with concentrated HCl to give pH 1-2, saturated with solid NaCl, and extracted three times with 30 ml of Et2O. The latter organic extracts are combined and dried over Na2SO4. The solvent is removed under reduced pressure to afford 0.40 g (76%) of crude 1-methylpyrrole-2-acetic acid.

reactant | sodium | 13.1 mmol, 2.28 g, 3.47 eq | [Na] | Na
reactant | KOH | [OH-].[K+]
reactant | 1-methyl-α-trichloromethylpyrrole-2-methanol | 3.77 mmol, 0.86 g | CN1C(=CC=C1)C(O)C(Cl)(Cl)Cl | C7H8Cl3NO
reactant | H2O | 6 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | 1-methylpyrrole-2-acetic acid | 0.40 g, 76% | CN1C(=CC=C1)CC(=O)O | C7H9NO2
